US08383647B2
N-[3-({[(1S,2S)-2-hydroxycyclohexyl]amino}methyl)-8-methylquinolin-7-yl]-4-(tetrahydrofuran-2-ylmethoxy)benzamide
N-(3-Formyl-8-methylquinolin-7-yl)-4-(tetrahydrofuran-2-ylmethoxy)benzamide (1.0 g) obtained in Reference Example 2% and trans-2-aminocyclohexanol (546 mg) were suspended in 1-methyl-2-pyrrolidone (20 mL) and acetic acid (7.0 mL) and the mixture was stirred at room temperature for 3 hr. Sodium triacetoxyborohydride (2.35 g) was added and the mixture was stirred at room temperature for 3 hr. 1N Aqueous sodium hydroxide solution was added to quench the reaction and basify the mixture. The mixture was partitioned and extracted with ethyl acetate, the organic layer was added to a solution of citric acid (4.0 g) in water (40 mL)-dimethyl sulfoxide (20 mL), and the mixture was washed with ethyl acetate. 1N Aqueous sodium hydroxide solution was added to the aqueous layer, and the mixture was partitioned and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained solid was recrystallized from ethyl acetate-diisopropyl ether to give the title compound (395 mg, yield 32%) as a colorless solid.

reactant | N-(3-Formyl-8-methylquinolin-7-yl)-4-(tetrahydrofuran-2-ylmethoxy)benzamide | 1.0 g | C(=O)C=1C=NC2=C(C(=CC=C2C1)NC(C1=CC=C(C=C1)OCC1OCCC1)=O)C | C23H22N2O4
reactant | trans-2-aminocyclohexanol | 546 mg | N[C@H]1[C@@H](CCCC1)O | C6H13NO
reactant | Sodium triacetoxyborohydride | 2.35 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | 1-methyl-2-pyrrolidone | 20 mL | CN1C(CCC1)=O | C5H9NO
solvent | acetic acid | 7.0 mL | C(C)(=O)O | C2H4O2
product | N-[3-({[(1S,2S)-2-hydroxycyclohexyl]amino}methyl)-8-methylquinolin-7-yl]-4-(tetrahydrofuran-2-ylmethoxy)benzamide | 395 mg, yield 32% | O[C@@H]1[C@H](CCCC1)NCC=1C=NC2=C(C(=CC=C2C1)NC(C1=CC=C(C=C1)OCC1OCCC1)=O)C | C29H35N3O4
